US05455260
N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-hydroxy-2-propanamine (0.4 g; 0.74 mmol) is added to a suspension of potassium hydride (0.12 g; 1. mmol; 35% suspension in oil) in dry THF (4 ml) at 0° C. The reaction is stirred for 15 minutes at 20° C. 4-Phenyl-1-butyl iodide (0.21 g; 0.81 mmol) is added and the reaction mixture stirred for 15 hours. The reaction is quenched with MeOH, diluted with CH2Cl2 and washed with water 2×. The organic phase is dried (Na2SO4), concentrated and purified by column chromatography with 80% CH2Cl2 /20% petroleum ether to yield N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine as an oil which is used directly in Step F.

reactant | N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-hydroxy-2-propanamine | 0.74 mmol, 0.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)CO | C36H32N2O3
reactant | potassium hydride | 0.12 g | [H-].[K+]
reactant | 4-Phenyl-1-butyl iodide | 0.81 mmol, 0.21 g | C1(=CC=CC=C1)CCCCI | C10H13I
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)COCCCCC2=CC=CC=C2 | C46H44N2O3
